* C:\users\fadelrio\Documents\Ingeniería\AdC\TP1 ADC\Draft_tp3.asc
XU1 3 4 +10 -10 V0 TL081
V1 +10 0 10
V2 0 -10 10
R1 2 1 8041
R2 3 2 1547
R3 4 V0 2490
R4 0 4 1k
C1 V0 2 100n
C2 0 3 100n
V3 1 0 SINE(0 1) AC 1
.inc TL084.txt
.ac lin 1000000 8 160000
.backanno
.end
